### PR TITLE
[Merged by Bors] - feat(Order/ConditionallyCompleteLattice/Indexed): `iSup` of `sup`s vs `sup` of `iSup`s

### PR DESCRIPTION
**Pull request by SnirBroshi**
`ciSup_sup_eq`/`ciInf_inf_eq` match `CompleteLattice`'s `iSup_sup_eq`/`iInf_inf_eq`, and in a `ConditionallyCompleteLinearOrder` we get an inequality without any bounded assumptions.

`Finset.ciSup_union` for `ConditionallyCompleteLinearOrderBot` matches `CompleteLattice`'s `Finset.iSup_union`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 1]
```diff
@@ -224,6 +224,14 @@ lemma sup_univ_eq_ciSup [Fintype ι] (f : ι → α) : univ.sup f = ⨆ i, f i :
     (Finset.sup_le fun _ _ => le_ciSup (finite_range _).bddAbove _)
     (ciSup_le' fun _ => Finset.le_sup (mem_univ _))
 
+theorem ciSup_union' [DecidableEq ι] {f : ι → α} {s t : Finset ι} :
```
Comment (Vierkantor) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean]: Why does this have a prime in its name: I don't see any `Finset.ciSup_union`?
```suggestion
theorem ciSup_union [DecidableEq ι] {f : ι → α} {s t : Finset ι} :
```

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 2]
```diff
@@ -224,6 +224,14 @@ lemma sup_univ_eq_ciSup [Fintype ι] (f : ι → α) : univ.sup f = ⨆ i, f i :
...
+    (⨆ x ∈ s ∪ t, f x) = (⨆ x ∈ s, f x) ⊔ (⨆ x ∈ t, f x) := by
+  suffices ∀ st : Finset ι, BddAbove (.range fun x ↦ ⨆ (_ : x ∈ st), f x) by
+    simp [ciSup_or', ciSup_sup_eq, this]
+  refine fun st ↦ ⟨st.sup f, fun a ⟨i, ha⟩ ↦ ha ▸ ?_⟩
+  by_cases h : i ∈ st
+    <;> simp [h, Finset.le_sup]
```
Comment (Vierkantor) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean]: Style nitpick: operators go at the end of the line (or this could be all on a single line too).
```suggestion
  by_cases h : i ∈ st <;>
    simp [h, Finset.le_sup]
```

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 3]
```diff
@@ -224,6 +224,14 @@ lemma sup_univ_eq_ciSup [Fintype ι] (f : ι → α) : univ.sup f = ⨆ i, f i :
     (Finset.sup_le fun _ _ => le_ciSup (finite_range _).bddAbove _)
     (ciSup_le' fun _ => Finset.le_sup (mem_univ _))
 
+theorem ciSup_union' [DecidableEq ι] {f : ι → α} {s t : Finset ι} :
+    (⨆ x ∈ s ∪ t, f x) = (⨆ x ∈ s, f x) ⊔ (⨆ x ∈ t, f x) := by
```
Comment (Vierkantor) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:228]: I thought this would be easier to prove using `Finset.ciSup_eq_max'` combined with `Finset.max'_union`. But the side conditions that generates seem a lot more annoying. So this way is good.

File: Mathlib/Order/ConditionallyCompleteLattice/Indexed.lean [hunk 4]
```diff
@@ -154,6 +154,17 @@ theorem ciSup_mono {f g : ι → α} (B : BddAbove (range g)) (H : ∀ x, f x 
   · rw [iSup_of_empty', iSup_of_empty']
   · exact ciSup_le fun x => le_ciSup_of_le B x (H x)
 
+theorem ciSup_sup_eq {f g : ι → α} (Hf : BddAbove <| range f) (Hg : BddAbove <| range g) :
+    ⨆ x, f x ⊔ g x = (⨆ x, f x) ⊔ (⨆ x, g x) := by
+  cases isEmpty_or_nonempty ι
+  · simp [iSup_of_empty']
+  apply le_antisymm <| ciSup_le fun x ↦ sup_le_sup (le_ciSup Hf x) (le_ciSup Hg x)
+  suffices BddAbove <| range fun x ↦ f x ⊔ g x from
```
Comment (Vierkantor) [inline Mathlib/Order/ConditionallyCompleteLattice/Indexed.lean]: Could you extract a lemma with conclusion `BddAbove <| range fun x ↦ f x ⊔ g x`?

File: Mathlib/Order/ConditionallyCompleteLattice/Indexed.lean [hunk 5]
```diff
@@ -325,6 +340,22 @@ section ConditionallyCompleteLinearOrder
 
 variable [ConditionallyCompleteLinearOrder α] {a b : α}
 
+theorem ciSup_sup_le {f g : ι → α} : ⨆ x, f x ⊔ g x ≤ (⨆ x, f x) ⊔ (⨆ x, g x) := by
+  by_cases! Hf : ¬BddAbove (range f)
+  · have : BddAbove (range fun x ↦ f x ⊔ g x) → BddAbove (range f) :=
+      fun ⟨b, h⟩ ↦ ⟨b, fun a ⟨i, ha⟩ ↦ ha ▸ le_sup_left.trans (h ⟨i, rfl⟩)⟩
```
Comment (Vierkantor) [inline Mathlib/Order/ConditionallyCompleteLattice/Indexed.lean]: Could you extract this as a lemma, and also for `range g`? (Both as an implication, and as an iff together with the lemma saying `BddAbove <| range fun x ↦ f x ⊔ g x`.)

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Order/ConditionallyCompleteLattice/Finset.lean]: That's the convention for `ConditionallyCompleteLinearOrderBot` AFAIK, without the prime it would be a lemma about `ConditionallyCompleteLattice`

Comment (Vierkantor) [reply Mathlib/Order/ConditionallyCompleteLattice/Finset.lean]: Ah I see, I was wondering about `ciSup_or'` already.

Comment (vihdzp) [reply Mathlib/Order/ConditionallyCompleteLattice/Finset.lean]: If there's no matching theorem about `ConditionallyCompleteLattice`, then the prime is redundant.

Comment (SnirBroshi) [reply Mathlib/Order/ConditionallyCompleteLattice/Finset.lean]: Well I've now checked with a bit of metaprogramming, and it looks like while there are many primed theorems where the unprimed version doesn't exist, this almost never happens for sup/inf theorems, and so the convention I thought I saw is false.
I still think we should have a convention (like the `c` in `ciSup`), but until then I'll unprime these 👍

Comment (SnirBroshi) [reply Mathlib/Order/ConditionallyCompleteLattice/Finset.lean]: Renamed, should I also deprime and deprecate `ciSup_or'` that you mentioned? (and `le_ciSup_iff'` in `Indexed.lean`?)

Comment (Vierkantor) [reply Mathlib/Order/ConditionallyCompleteLattice/Finset.lean]: Thanks for checking the primes! Could you post that metaprogram somewhere (on Zulip perhaps)?

> should I also deprime and deprecate ciSup_or' that you mentioned? (and le_ciSup_iff' in Indexed.lean?)

I think so, but let's do that as part of another PR in any case.

**Comment by Vierkantor** [comment]
Sorry for the wait, finally getting around to digging old PRs out of the todo list (email inbox). Thanks! 🎉 

bors r+
